* Qucs 25.2.0  /home/viliv/repos/rlc2ss/qucs/diode.sch
L2 _net0 _net1  1E-2; 
V1 _net1 0 DC 1
R1 _net2 N_D2_P  0.1; tc1=0.0 tc2=0.0 
R2 0 N_D3_N  1; tc1=0.0 tc2=0.0 
R3 N_D2_P _net3  1; tc1=0.0 tc2=0.0 
R4 0 _net0  1; tc1=0.0 tc2=0.0 
D1 _net2 _net1 DMOD_D1 AREA=1.0
.MODEL DMOD_D1 D (Is=1E-15 N=1 Cj0=10F M=0.5 Vj=0.7 Fc=0.5 Rs=0.0 Tt=0.0P Kf=0.0 Af=1.0 Bv=10 Ibv=1M Xti=3.0 Eg=1.11 Tcv=0.0 Trs=0.0 Ttt1=0.0 Ttt2=0.0 Tm1=0.0 Tm2=0.0 Tnom=26.85 )
D2 _net4 N_D2_P DMOD_D2 AREA=1.0
.MODEL DMOD_D2 D (Is=1E-15 N=1 Cj0=10F M=0.5 Vj=0.7 Fc=0.5 Rs=0.0 Tt=0.0P Kf=0.0 Af=1.0 Bv=10 Ibv=1M Xti=3.0 Eg=1.11 Tcv=0.0 Trs=0.0 Ttt1=0.0 Ttt2=0.0 Tm1=0.0 Tm2=0.0 Tnom=26.85 )
D3 N_D3_N _net4 DMOD_D3 AREA=1.0
.MODEL DMOD_D3 D (Is=1E-15 N=1 Cj0=10F M=0.5 Vj=0.7 Fc=0.5 Rs=0.0 Tt=0.0P Kf=0.0 Af=1.0 Bv=10 Ibv=1M Xti=3.0 Eg=1.11 Tcv=0.0 Trs=0.0 Ttt1=0.0 Ttt2=0.0 Tm1=0.0 Tm2=0.0 Tnom=26.85 )
L3 _net5 _net6  2E-2; 
L1 _net3 N_D3_N  2E-2; 
R5 _net5 _net6  1E-3; tc1=0.0 tc2=0.0 
K1 L1 L3 0.5; 
S1 _net1  _net2  _net7  _net8 

.control

exit
.endc
.END
